US07144876B2
5-(3-Chlorothiophen-2-yl)-2-(piperidine-1-yl)-[1,3,4]oxadiazole
3-Chlorothiophene-2-carboxylic acid hydrazide. To a solution of hydrazine (0.860 mL, 27.6 mmol) at 0° C. was added a clear solution of 3-chlorothiophene-2-carbonyl chloride (1.00 g, 5.52 mmol) and CH2Cl2 (11.0 mL). The reaction was stirred at 0° C. for 0.5 h and then equilibrated to room temperature. The solvent was evaporated and the yellow solid was diluted with ethyl acetate (70 mL), washed with water (2×20 mL), dried over MgSO4, filtered and concentrated to give 0.80 g (82%) of the title compound as a white solid. 1H NMR (CDCl3): 9.41 (s, 1H), 7.81 (d, 1H, J=5.2 Hz), 7.13 (d, 1H, J=5.5 Hz), 4.57 (s, 2H).

reactant | 3-Chlorothiophene-2-carboxylic acid hydrazide | ClC1=C(SC=C1)C(=O)NN | C5H5ClN2OS
reactant | hydrazine | 27.6 mmol, 0.860 mL | NN | H4N2
reactant | 3-chlorothiophene-2-carbonyl chloride | 5.52 mmol, 1.00 g | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
reactant | CH2Cl2 | 11.0 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-Chlorothiophen-2-yl)-2-(piperidine-1-yl)-[1,3,4]oxadiazole | 0.80 g, 82% | ClC1=C(SC=C1)C1=NN=C(O1)N1CCCCC1 | C11H12ClN3OS
